US04833143
A solution of 2-bromopyridine (12.3 g) in dry ether (80 ml) was added to a 1.55M solution of butyllithium in hexane (30 ml) at -78° C. The mixture was stirred at -78° C. for one hour and a solution of 1-(4-chlorophenyl)cyclobutanecarbonitrile (8 g) in ether (8 ml) added and the temperature of the mixture was allowed to rise to ambient. After one hour a solution of sodium borohydride (3 g) in dry diethyleneglycoldimethyl ether (130 ml) was added and the mixture heated at 95° C. for two hours. Water (100 ml) was added and the mixture extracted with ether. The ether extract was extracted with 8N hydrochloric acid and the acid extract washed with ether, basified with aqueous sodium hydroxide solution and extracted with ether. The ether extract was filtered through diatomaceous earth, dried and the solvent removed by evaporation. The residue was distilled in the range 168°-180° C. at 0.2 mm Hg pressure to yield an oil which was dissolved in ether. Hydrogen chloride gas was passed through the ethereal solution and the resulting precipitate was heated with propan-2-ol to give [1-(4-chlorophenyl)cyclobutyl](pyrid-2-yl)methylamine dihydrochloride (m.p. 240°-245° C. (dec)).

reactant | 2-bromopyridine | 12.3 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | butyllithium | C(CCC)[Li]
reactant | 1-(4-chlorophenyl)cyclobutanecarbonitrile | 8 g | ClC1=CC=C(C=C1)C1(CCC1)C#N | C11H10ClN
reactant | sodium borohydride | 3 g | [BH4-].[Na+]
reactant | Hydrogen chloride | Cl | ClH
reactant | hexane | 30 ml | CCCCCC | C6H14
solvent | ether | 80 ml | CCOCC | C4H10O
solvent | ether | 8 ml | CCOCC | C4H10O
solvent | ether | 130 ml | CCOCC | C4H10O
solvent | propan-2-ol | CC(C)O | C3H8O
solvent | Water | 100 ml | O | H2O
product | [1-(4-chlorophenyl)cyclobutyl](pyrid-2-yl)methylamine dihydrochloride | Cl.Cl.ClC1=CC=C(C=C1)C1(CCC1)NCC1=NC=CC=C1 | InChI=1S/C16H17ClN2.2ClH/c17-14-7-5-13(6-8-14)16(9-3-10-16)19-12-15-4-1-2-11-18-15;;/h1-2,4-8,11,19H,3,9-10,12H2;2*1H
